US07737166B2
4-Amino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-2-methyl-5-nitrobiphenyl-3-carbonitrile (I-268)
Potassium phosphate (115 mg, 0.54 mmol) and Pd(PPh3)4 (16 mg, 5 mol %) were added to a dioxane (3 ml) solution of 2-amino-5-bromo-4-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methyl-3-nitrobenzonitrile (I-267) (100 mg, 0.27 mmol) and phenylboronic acid (40 mg, 0.33 mmol), followed by purging with nitrogen and heating under reflux for 18 hours. After cooling, water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the residue was subjected to column chromatography, and eluted with a mixed solvent of chloroform/methanol (2:1, v/v) to obtain the entitled compound (89 mg, 90%) as a dark red solid.

reactant | Potassium phosphate | 0.54 mmol, 115 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-amino-5-bromo-4-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methyl-3-nitrobenzonitrile | 0.27 mmol, 100 mg | NC1=C(C#N)C(=C(C(=C1[N+](=O)[O-])N1C[C@H](CC1)N(C)C)Br)C | C14H18BrN5O2
reactant | phenylboronic acid | 0.33 mmol, 40 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | Pd(PPh3)4 | 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-2-methyl-5-nitrobiphenyl-3-carbonitrile | 89 mg, 90% | NC1=C(C(=C(C(=C1[N+](=O)[O-])N1C[C@H](CC1)N(C)C)C1=CC=CC=C1)C)C#N | C20H23N5O2
